US07842694B2
3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide (2.46 g, 6.13 mmol) and 10% by weight palladium on carbon (0.246 g) in ethanol (100 mL) was allowed to stir at RT, under a hydrogen atmosphere overnight. The solution was filtered through Celite® and the cake washed with methanol (100 mL). The solution was evaporated to give the desired compound (1.78 g). 1H NMR δ (d6-DMSO): 3.78 (s, 3H), 4.72 (m, 4H), 4.97 (m, 1H), 6.57 (d, 2H), 7.03 (s, 1H), 7.16 (s, 1H), 7.59 (s, 1H). m/z 312 (M+H)+

reactant | 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 6.13 mmol, 2.46 g | FCC(CF)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1 | C21H21F2N3O3
catalyst | palladium on carbon | 0.246 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.78 g | FCC(CF)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O | C14H15F2N3O3
